US08703758B2
B) N-[(1S)-2-({1-[6-(2-cyclopropylethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]acetamide
To tert-butyl [(1S)-2-({1-[6-(2-cyclopropylethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate (190 mg) was added 4M hydrogen chloride/ethyl acetate (5 mL), and the mixture was stirred at room temperature for 15 min, and concentrated. Pyridine (10 mL) and acetic anhydride (5 mL) were added to the residue, and the mixture was stirred at room temperature for 15 min. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel chromatography (ethyl acetate/methanol), and recrystallized from ethyl acetate/hexane to give the title compound (43 mg).

reactant | tert-butyl [(1S)-2-({1-[6-(2-cyclopropylethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate | 190 mg | C1(CC1)CCOC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C25H37N3O5
reactant | hydrogen chloride ethyl acetate | 4M, 5 mL | Cl.C(C)(=O)OCC
product | N-[(1S)-2-({1-[6-(2-cyclopropylethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]acetamide | 43 mg | C1(CC1)CCOC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(C)=O)C=C1 | C22H31N3O4
